US05273986
A solution of 1.5 g of (E)-2-[2-(3-nitrophenyl)ethenyl]-4-thiazolecarboxylic acid ethyl ester, 3.87 g of tin(II) chloride monohydrate and 100 ml of ethanol was heated to reflux for 16 hr. The reaction mixture was then poured onto ice-water, basified with ammonium hydroxide and extracted with methylene chloride. The methylene chloride solution was washed with water, saturated brine and dried (MgSO4). Evaporation of the solvent in vacuo yielded 1.1 g of (E)-2-[2-(3-aminophenyl)ethenyl]-4-thiazolecarboxylic acid ethyl ester; m.p. 112°-113° C. from ethanol.

reactant | (E)-2-[2-(3-nitrophenyl)ethenyl]-4-thiazolecarboxylic acid ethyl ester | 1.5 g | C(C)OC(=O)C=1N=C(SC1)\C=C\C1=CC(=CC=C1)[N+](=O)[O-] | C14H12N2O4S
reactant | tin(II) chloride monohydrate | 3.87 g | O.[Sn](Cl)Cl
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | (E)-2-[2-(3-aminophenyl)ethenyl]-4-thiazolecarboxylic acid ethyl ester | 1.1 g | C(C)OC(=O)C=1N=C(SC1)\C=C\C1=CC(=CC=C1)N | C14H14N2O2S
